US06632810B2
Synthesis of 2-hydroxymethyl-1-methyl-4,5,6-trimethoxybenzimidazole:
A mixture (471 mg) of 2-tert-butyldimethylsilyloxymethyl-1-methyl-4,5,6-trimethoxybenzimidazole and 2-tert-butyldimethylsilyloxymethyl-1-methyl-5,6,7-trimethoxybenzimidazole was dissolved in a mixed solvent of acetic acid (5 mL), water (2.5 mL) and THF (2.5 mL), and the solution was stirred at 90° C. for 2 hours. Saturated brine was added to the reaction mixture, and the mixture was alkalified with an aqueous solution of potassium carbonate and then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by preparative TLC on silica gel (chloroform:methanol=13:1) to obtain a mixture of the title compounds.

reactant | 2-tert-butyldimethylsilyloxymethyl-1-methyl-4,5,6-trimethoxybenzimidazole | 471 mg | [Si](C)(C)(C(C)(C)C)OCC1=NC2=C(N1C)C=C(C(=C2OC)OC)OC | C18H30N2O4Si
reactant | 2-tert-butyldimethylsilyloxymethyl-1-methyl-5,6,7-trimethoxybenzimidazole | [Si](C)(C)(C(C)(C)C)OCC1=NC2=C(N1C)C(=C(C(=C2)OC)OC)OC | C18H30N2O4Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 2.5 mL | O | H2O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-hydroxymethyl-1-methyl-4,5,6-trimethoxybenzimidazole | OCC1=NC2=C(N1C)C=C(C(=C2OC)OC)OC | C12H16N2O4
